US07646014B2
(1) Synthesis of 3,4-Difluoro-Benzoic acid 4-(2-Chlorocarbonyl-Vinyl)-Phenyl Ester
About 10 g (about 21.68 mmol) of 3,4-difluoro-benzoic acid 4-(2-carboxy-vinyl)-phenyl ester was dissolved in about 200 ml of methylene chloride, and about 2.84 g (23.848 mmol) of thionyl chloride (SOCl2) was added thereto. Thereafter, the reaction mixture was stirred at about 35° C. for about 6 hours, followed by removing the solvent. Subsequently, a vacuum drying process was conducted, thus obtaining the desired compound (Yield about 90%).

reactant | 3,4-difluoro-benzoic acid 4-(2-carboxy-vinyl)-phenyl ester | about 21.68 mmol, 10 g | C(=O)(O)C=CC1=CC=C(C=C1)OC(C1=CC(=C(C=C1)F)F)=O | C16H10F2O4
reactant | thionyl chloride | 23.848 mmol, about 2.84 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | about 200 ml | C(Cl)Cl | CH2Cl2
product | 3,4-Difluoro-Benzoic acid 4-(2-Chlorocarbonyl-Vinyl)-Phenyl Ester | Yield about 90% | ClC(=O)C=CC1=CC=C(C=C1)OC(C1=CC(=C(C=C1)F)F)=O | C16H9ClF2O3
